US07345068B2
Ethyl ester of 2-phenylbenzothiazole-7-carboxylic acid (425 mg, 1.50 mmol) was reduced by using lithium aluminium hydride as in Preparation 2-3) to give 2-phenylbenzothiazole-7-methanol (340 mg, 94%) as colorless crystals.

reactant | 2-phenylbenzothiazole-7-carboxylic acid | 1.50 mmol, 425 mg | C1(=CC=CC=C1)C=1SC2=C(N1)C=CC=C2C(=O)O | C14H9NO2S
reactant | lithium aluminium hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
product | 2-phenylbenzothiazole-7-methanol | 340 mg, 94% | C1(=CC=CC=C1)C=1SC2=C(N1)C=CC=C2CO | C14H11NOS
